US04074051
4-Piperidinomethyl-1-phenylpyrazolidin-3-one
Ethyl 2-piperidinomethylacrylate (19.7g) was added in one portion to a boiling mixture of phenylhydrazine (10.8g) and sodium isopropoxide (2.3g sodium) in isopropanol (100 ml), giving rise to a vigorous foaming. The solution was boiled vigorously under reflux in order to avoid contact of the reaction mixture with air. After boiling for one hour, the solution was cooled rapidly and neutralised with sulphuric acid (50 ml, 2N). The mixture was extracted with chloroform (3 × 100 ml) and the chloroform solution was evaporated to dryness, giving a buff solid.

reactant | Ethyl 2-piperidinomethylacrylate | 19.7g | N1(CCCCC1)CC(C(=O)OCC)=C | C11H19NO2
reactant | phenylhydrazine | 10.8g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium isopropoxide | 2.3g | CC([O-])C.[Na+]
reactant | sulphuric acid | 2N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-Piperidinomethyl-1-phenylpyrazolidin-3-one | N1(CCCCC1)CC1C(NN(C1)C1=CC=CC=C1)=O | C15H21N3O
